US04061656
36 G. of 7-formyl-3-methyl-octa-2,4,6-trien-1oic acid ethyl ester are dissolved in 600 ml. of absolute ethanol. The solution is treated portionwise with 1.8 g. of sodium borohydride. The mixture is stirred for 2 hours at 10° C. then poured onto ice water and 3 N aqueous hydrochloric acid and extracted with ether. The ether extract is washed successively with water, a saturated aqueous sodium bicarbonate solution and once more with water, dried over sodium sulfate and evaporated. There is obtained 8-hydroxy-3,7-dimethyl-octa-2,4,6-trien-1-oic acid ethyl ester.

reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 8-hydroxy-3,7-dimethyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(CO)C)C)=O | C12H18O3
